### PR TITLE
[Merged by Bors] - feat(FiberCategory/Fibered): define fibered functors

### PR DESCRIPTION
**Pull request by callesonne**
We define the class `IsFibered p`, which captures what it means for a functor `p : 𝒳 ⥤ 𝒮` to be a fibered category, defined as in SGA 1 VI 6.1.  We also provide an alternate constructor corresponding to the definition as in [02XM](https://stacks.math.columbia.edu/tag/02XM).

Co-authored-by: Paul Lezeau <paul.lezeau@gmail.com>

---

- [x] depends on: #13416
- [x] depends on: #13410
- [x] depends on: #13393
- [x] depends on: #12978

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/FiberedCategory/Fibered.lean [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+    have := hφ'.domain_eq.symm
+    subst this
+    subst hf'
+    apply h a' g φ' hφ'
+
+instance {p : 𝒳 ⥤ 𝒮} {R S : 𝒮} {a b : 𝒳} {f : R ⟶ S} {φ : a ⟶ b} [hφ : IsCartesian p f φ] :
+    IsHomLift p f φ := hφ.toIsHomLift
+
+/-- Definition of a Fibered category. -/
+class IsFibered (p : 𝒳 ⥤ 𝒮) : Prop where mk' ::
```
Comment (joelriou) [inline Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:95]: This is not the definition of a fibered category, this is a *pre*fibered category. Fibered category are prefibered category where the composition of two cartesian morphisms is cartesian, see SGA 1 VI 6.1.

Comment (callesonne) [reply Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:95]: I am using a different notion of `IsCartesian` to SGA, the fact that composition of two cartesian arrows is cartesian follows and is lemma `IsCartesian.comp`. It seems they only require the universal property to be satisfied for `R'=R` (with notation as in the code). Most books on stacks that I have read define them the way we did here, for example Olsson's book. Do you think it's better to define cartesian arrows as in SGA (and then adjust the definition of `IsFibered`)?

Comment (joelriou) [reply Mathlib/CategoryTheory/FiberedCategory/Fibered.lean]: The notion of prefibered category appears in certain results in the homotopy theory of categories (how certain properties of functors become homotopy equivalences, fibrations, etc, after passing to the nerve), typically Quillen's higher algebraic K-theory. Then, I feel it would be worth defining the notion of prefibered category also. (What you call "cartesian", it is what is named "strongly cartesian" at https://stacks.math.columbia.edu/tag/02XJ ?) For fibered categories, different constructors could be introduced depending on whether we check the expected properties using cartesian or strongly cartesian morphisms.

Comment (callesonne) [reply Mathlib/CategoryTheory/FiberedCategory/Fibered.lean]: Okay, then I will work to do everything in this generality!

Comment (callesonne) [reply Mathlib/CategoryTheory/FiberedCategory/Fibered.lean]: I have added this now (although there is still some cleaning up & documentation to write). I think I will split this PR into two: `Cartesian` and `Fibered` once it is ready again.

**Comment by callesonne** [comment]
I also have a question about design approach @joelriou . In [https://github.com/Paul-Lez/Stacks-project](https://github.com/Paul-Lez/Stacks-project), we have a notion of `BasedCategory` defined as follows:
```
/-- A based category over `𝒮` is a category `𝒳` together with a functor `p : 𝒳 ⥤ 𝒮` -/
structure BasedCategory (𝒮 : Type u₁) [Category.{v₁} 𝒮] where
  (cat : Type u₂)
  [isCat : Category.{v₂} cat]
  (p : cat ⥤ 𝒮)
```
We developed this as a preliminary step to dealing with functors between different fibered categories, and we showed that `BasedCategory 𝒮` forms a strict bicategory. Now, do you think it could be good to rewrite the code defining `IsFibered` and `IsCartesian` to use `𝒳 : BasedCategory 𝒮` as a parameter instead of `p : 𝒳 ⥤ 𝒮`? Or is it unecessary to lock `p` inside `𝒳 : BasedCategory 𝒮`, since we don't talk about functors between (pre-)fibered categories in this PR anyways?

**Comment by callesonne** [comment]
Here is an update on this PR. I have split it into 4 smaller PRs. This one now only concerns the definition of a fibered category, defined as in SGA, and also an alternate constructor for using the definition as in e.g. Stacks project.

File: Mathlib/CategoryTheory/FiberedCategory/Fibered.lean [hunk 2]
```diff
@@ -72,4 +93,95 @@ lemma pullbackObj_proj : p.obj (pullbackObj ha f) = R :=
...
 
+namespace IsFibered
+
+open IsCartesian IsPreFibered
+
+/-- In a fibered category, any cartesian morphism is strongly cartesian. -/
+instance isStronglyCartesian_of_isCartesian (p : 𝒳 ⥤ 𝒮) [p.IsFibered] {R S : 𝒮} (f : R ⟶ S)
+    {a b : 𝒳} (φ : a ⟶ b) [p.IsCartesian f φ] : p.IsStronglyCartesian f φ where
+  universal_property' := by
+    intro a' g φ' hφ'
```
Comment (joelriou) [inline Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:104]:
```suggestion
  universal_property' g φ' hφ' := by
```
(Note that if we absolutely had to give a name to the first implicit variable, we could also use the syntax `universal_property' {a'} g φ' hφ' :=`.

File: Mathlib/CategoryTheory/FiberedCategory/Fibered.lean [hunk 3]
```diff
@@ -72,4 +93,95 @@ lemma pullbackObj_proj : p.obj (pullbackObj ha f) = R :=
...
+  -- It is easily verified that `τ' ≫ Φ.hom` lifts `g` and `τ' ≫ Φ.hom ≫ φ = φ'`
+  refine ⟨⟨by simp only [Φ]; infer_instance, ?_⟩, ?_⟩
+  · simp [τ', Φ, IsStronglyCartesian.map_uniq p (p.map φ) ψ rfl φ']
+  -- It remains to check that it is unique. This follows from the universal property of `ψ`.
+  intro π ⟨hπ, hπ_comp⟩
+  rw [← Iso.comp_inv_eq]
+  apply IsStronglyCartesian.map_uniq p (p.map φ) ψ rfl φ'
+  simp [hπ_comp, Φ]
+
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:148]:
```suggestion
```

File: Mathlib/CategoryTheory/FiberedCategory/Fibered.lean [hunk 4]
```diff
@@ -72,4 +93,95 @@ lemma pullbackObj_proj : p.obj (pullbackObj ha f) = R :=
...
+form
+```
+          a
+          -
+          |
+          v
+R --f--> p(a)
+```
+admits a strongly cartesian lift `b ⟶ a` of `f`. -/
+lemma of_exists_isStronglyCartesian' {p : 𝒳 ⥤ 𝒮} (h : ∀ (a : 𝒳) (R : 𝒮) (f : R ⟶ p.obj a),
```
Comment (joelriou) [inline Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:159]: This lemma should be in the `Functor.IsFibered` namespace. Also, I am not sure we need `'` in the name.

Comment (callesonne) [reply Mathlib/CategoryTheory/FiberedCategory/Fibered.lean]: I changed the whole `IsFibered` namespace to `Functor.IsFibered` in the end

File: Mathlib/CategoryTheory/FiberedCategory/Fibered.lean [hunk 5]
```diff
@@ -17,6 +17,16 @@ This file defines what it means for a functor `p : 𝒳 ⥤ 𝒮` to be (pre)fib
...
+- `IsFibered p` expresses `𝒳` is fibered over `𝒮` via a functor `p : 𝒳 ⥤ 𝒮`, as in SGA VI.6.1.
+This means that it is prefibered, and that the composition of any two cartesian morphisms is
+cartesian.
+
+In the literature one often sees the notion of a fibered category defined as the existence of
+strongly cartesian morphisms lying over any given morphism in the base. This is equivalent to the
+notion above, and we give an alternate constructor `IsFibered.of_exists_isCartesian'` for
+constructing a fibered category this way.
+
+
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:29]:
```suggestion
```

File: Mathlib/CategoryTheory/FiberedCategory/Fibered.lean [hunk 6]
```diff
@@ -70,6 +91,95 @@ instance pullbackMap.IsCartesian : IsCartesian p f (pullbackMap ha f) :=
...
+```
+          a
+          -
+          |
+          v
+R --f--> p(a)
+```
+admits a strongly cartesian lift `b ⟶ a` of `f`. -/
+lemma of_exists_isStronglyCartesian {p : 𝒳 ⥤ 𝒮} (h : ∀ (a : 𝒳) (R : 𝒮) (f : R ⟶ p.obj a),
+    ∃ (b : 𝒳) (φ : b ⟶ a), IsStronglyCartesian p f φ) : IsFibered p where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/FiberedCategory/Fibered.lean:158]: That looks a bit funny. What about
```suggestion
lemma of_exists_isStronglyCartesian {p : 𝒳 ⥤ 𝒮}
    (h : ∀ (a : 𝒳) (R : 𝒮) (f : R ⟶ p.obj a), ∃ (b : 𝒳) (φ : b ⟶ a), IsStronglyCartesian p f φ) :
    IsFibered p where
```

**Comment by kbuzzard** [comment]
Thanks! Note the whitespace comment.

bors d+ joelriou

**Comment by mattrobball** [comment]
Oops. Meant to delegate to @joelriou 

bors d-

**Comment by mattrobball** [comment]
See if this syntax works

bors d+=joelriou

**Comment by jcommelin** [comment]
bors d=joelriou

**Comment by kbuzzard** [comment]
@joelriou are you happy with this now?

**Comment by joelriou** [comment]
Thanks!

bors merge
